US08859768B2
Methylmagnesium bromide (3.0 M in diethyl ether, 0.18 mL, 0.53 mmol) was added to 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-methoxy-N-methyl-1,3-oxazole-4-carboxamide (0.19 g. 0.45 mmol) in THY (1 mL) under an atmosphere of argon at 0° C. The reaction mixture was allowed to warm to rt and stir overnight and then additional methylmagnesium bromide (3.0 M in diethyl ether, 0.30 mL, 0.90 mmol) was added. The reaction mixture was then allowed to stir for 24 hr. Aqueous HCl was added and then the mixture was basified with NaHCO3 and washed with EtOAc. The organic solutions were combined, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-{4-[4-acetyl-5-(2-chlorophenyl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (0.12 g, 54%). LCMS (FA): m/z=370.0 (M+H).

reactant | Methylmagnesium bromide | 0.53 mmol, 3.0 M, 0.18 mL | C[Mg]Br
reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-methoxy-N-methyl-1,3-oxazole-4-carboxamide | 0.45 mmol, 0.19 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)N(C)OC)C1=C(C=CC=C1)Cl)C | C20H19ClN4O4
reactant | methylmagnesium bromide | 0.90 mmol, 3.0 M, 0.30 mL | C[Mg]Br
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-{4-[4-acetyl-5-(2-chlorophenyl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.12 g, 54% | C(C)(=O)C=1N=C(OC1C1=C(C=CC=C1)Cl)C1=CC(=NC=C1C)NC(C)=O | C19H16ClN3O3
